US05789412
36A: 2-chloro-1-[4-(2,3-xylyl)piperazin-1-yl]-ethanone
Chloroacetyl chloride (1.47 ml, 18.5 mmol) is added dropwise to a solution of 1-(2,3-xylyl)piperazine (3.2 g, 16.8 mmol) and calcium carbonate (5 g, 50 mmol) in methyl ethyl ketone (40 ml) cooled to 0° C. The reaction mixture is stirred at this temperature for 1 h 30 and it is then filtered through Celite. The Celite is rinsed several times with ethyl acetate and 3M sodium hydroxide solution. The two phases of the filtrate are then separated and the organic phase is dried over magnesium sulfate, filtered and concentrated.

reactant | Chloroacetyl chloride | 18.5 mmol, 1.47 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-(2,3-xylyl)piperazine | 16.8 mmol, 3.2 g | C1(=C(C(=CC=C1)C)C)N1CCNCC1 | C12H18N2
reactant | calcium carbonate | 50 mmol, 5 g | C([O-])([O-])=O.[Ca+2]
solvent | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
product | 2-chloro-1-[4-(2,3-xylyl)piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=C(C(=CC=C1)C)C | C14H19ClN2O
